US05622953
b) 5-Hydroxymethyl-3-methoxy-isoxazole
To a solution of 7.0 g 3-methoxy-5-carbethoxy-isoxazole in 80 ml tetrahydrofuran a 2m solution of lithiumborohydride in tetrahydrofuran was added at 15°-20° C. The reaction mixture was stirred for 2 h at room temperature, then poured into saturated ammoniumchloride solution and extracted with dichloromethane. The organic phase was dried over magnesium sulfate and evaporated togive 4.87 g alcohol.

reactant | 3-methoxy-5-carbethoxy-isoxazole | 7.0 g | COC1=NOC(=C1)C(=O)OCC | C7H9NO4
reactant | lithiumborohydride | [BH4-].[Li+]
reactant | ammoniumchloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-Hydroxymethyl-3-methoxy-isoxazole | OCC1=CC(=NO1)OC | C5H7NO3
